US07790724B2
b) 2-Cyclohex-1-enyl-4-(1H-tetrazol-5-ylmethyl)-phenylamine
The title compound was prepared from (4-amino-3-cyclohex-1-enyl-phenyl)-acetonitrile (as prepared in the previous step, 103 mg, 0.485 mmol) and azidotrimethylstannane (105 mg, 0.510 mmol) in toluene (4 mL) according to the procedure in Example 52, step (c) and then further purified by preparative TLC (10% MeOH—CHCl3) to afford 40 mg (39%) as a white solid. Mass spectrum (ESI, m/z): Calcd. for C14H17N5, 256.1 (M+H), found 256.1.

reactant | (4-amino-3-cyclohex-1-enyl-phenyl)-acetonitrile | NC1=C(C=C(C=C1)CC#N)C1=CCCCC1 | C14H16N2
reactant | azidotrimethylstannane | 0.510 mmol, 105 mg | N(=[N+]=[N-])[Sn](C)(C)C
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclohex-1-enyl-4-(1H-tetrazol-5-ylmethyl)-phenylamine | C1(=CCCCC1)C1=C(C=CC(=C1)CC1=NN=NN1)N | C14H17N5
